US07338960B2
(2E)-3-{3,5-Dimethyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}-2-propenoic acid
To a stirring solution of ethyl (2E)-3-{3,5-dimethyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}-2-propenoate (35 mg, 0.07 mmol) in THF (5 mL) and MeOH (5 mL) at ambient temperature was added NaOH (2N, 5 mL) and the mixture stirred for 2 h and then left to stand overnight. HCl (2N, 5 mL) was then added and the mixture reduced under vacuum. The residue was then purified by SPE (silica, 5 g cartridge) with a pad of celite on the top, eluting with cyclohexane:EtOAc (gradient 3:1 to 0:1) the EtOAc:MeOH (gradient 95:5 to 0:1) to give the title compound (28 mg).

reactant | ethyl (2E)-3-{3,5-dimethyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}-2-propenoate | 0.07 mmol, 35 mg | CC=1C=C(C=C(C1OC(CCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)C)/C=C/C(=O)OCC | C30H32F3NO3
reactant | NaOH | 2N, 5 mL | [OH-].[Na+]
reactant | HCl | 2N, 5 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | (2E)-3-{3,5-Dimethyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}-2-propenoic acid | 28 mg | CC=1C=C(C=C(C1OC(CCCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)C)/C=C/C(=O)O | C28H28F3NO3
